US06096898
3,4,5-Trichloro-2-thiophenecarbonyl chloride
A mixture of 20.4 g (0.088 mole) of 3,4,5-trichloro-2-thiophenecarboxylic acid, 7.3 mL (0.1 mole) of thionyl chloride, 0.2 mL of DMF and 80 mL of 1,2-dichloroethane was heated at reflux temperature for 3 h. The reaction mixture became a clear solution after 1 h of heating. The mixture was allowed to cool to RT, concentrated in vacuo and exposed to high vacuum to give 22.0 g (>98% wt) an oil which solidified upon standing to an off-white powder, mp 37°-41° C.

reactant | 3,4,5-trichloro-2-thiophenecarboxylic acid | 0.088 mole, 20.4 g | ClC1=C(SC(=C1Cl)Cl)C(=O)O | C5HCl3O2S
reactant | thionyl chloride | 0.1 mole, 7.3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | 1,2-dichloroethane | 80 mL | ClCCCl | C2H4Cl2
product | 3,4,5-Trichloro-2-thiophenecarbonyl chloride | ClC1=C(SC(=C1Cl)Cl)C(=O)Cl | C5Cl4OS
